US07645789B2
tert-Butyl 2-(5-amino-1H-indol-2-yl)-2-methylpropylcarbamate (58 mg, 0.19 mmol), 1-(benzo[d][1,3]dioxol-6-yl)cyclopropanecarboxylic acid (47 mg, 0.23 mmol), EDC (45 mg, 0.23 mmol), HOBt (31 mg, 0.23 mmol) and Et3N (80 μL, 0.57 mmol) were dissolved in DMF (4 mL) and stirred overnight at room temperature. The mixture was diluted with water and extracted with ethylacetate. The combined organic phases were dried over magnesium sulfate and evaporated to dryness. The residue was purified by silica gel chromatography (10-30% ethylacetate in hexane) to give tert-butyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)-2-methylpropyl-carbamate (88 mg, 94%). 1H NMR (400 MHz, CDCl3) δ 8.32 (s, 1H), 7.62 (d, J=1.5 Hz, 1H), 7.18-7.16 (m, 2H), 7.02-6.94 (m, 3H), 6.85 (d, J=7.8 Hz, 1H), 6.19 (d, J=1.5 Hz, 1H), 6.02 (s, 2H), 4.54 (m, 1H), 3.33 (d, J=6.2 Hz, 2H), 1.68 (dd, J=3.7, 6.8 Hz, 2H), 1.36 (s, 9H), 1.35 (s, 6H), 1.09 (dd, J=3.7, 6.8 Hz, 2H).

reactant | tert-Butyl 2-(5-amino-1H-indol-2-yl)-2-methylpropylcarbamate | 0.19 mmol, 58 mg | NC=1C=C2C=C(NC2=CC1)C(CNC(OC(C)(C)C)=O)(C)C | C17H25N3O2
reactant | 1-(benzo[d][1,3]dioxol-6-yl)cyclopropanecarboxylic acid | 0.23 mmol, 47 mg | O1COC2=C1C=C(C=C2)C2(CC2)C(=O)O | C11H10O4
reactant | EDC | 0.23 mmol, 45 mg
reactant | HOBt | 0.23 mmol, 31 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 0.57 mmol, 80 μL | CCN(CC)CC | C6H15N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)-2-methylpropyl-carbamate | 88 mg, 94% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(CNC(OC(C)(C)C)=O)(C)C | C28H33N3O5
